US04230850
3-Benzyl-4-(2'-morpholinoethoxy)-coumarin.
Prepared as indicated in Example 8, from 13.7 g. (0.54 mol) of 3-benzyl-4-hydroxy-coumarin and 10.6 g. (0.071 mol) of 2-morpholino-1-chlorethane. After evaporation of the chloroform, there are obtained 17 g. of an oil which cannot be crystallised. Yield 88.5% (theoretical yield 19.2 g.).

reactant | 3-benzyl-4-hydroxy-coumarin | 0.54 mol | C(C1=CC=CC=C1)C=1C(OC2=CC=CC=C2C1O)=O | C16H12O3
reactant | 2-morpholino-1-chlorethane | 0.071 mol | O1CCN(CC1)CCCl | C6H12ClNO
product | 3-Benzyl-4-(2'-morpholinoethoxy)-coumarin | Yield 88.5% | C(C1=CC=CC=C1)C=1C(OC2=CC=CC=C2C1OCCN1CCOCC1)=O | C22H23NO4
